US07763641B2
Reaction of a α-substituted-α-bromoacetophenone with thiourea or substituted thiourea, at elevated temperatures may give gave an intermediate G1. Suitably, this reaction may be performed under refluxing conditions in the presence of DMF (dimethylformamide). This intermediate (G1) may be reacted with chlorosulfonic acid to yield the sulfonyl chloride B-1. For example 2-bromopropiophenone may be reacted with thiourea to yield 2-amino-5-methyl-4-phenylthiazole, which can be further transformed to 4-(2-amino-5-methylthiazol-4-yl)phenyl sulfonyl chloride.

reactant | 2-bromopropiophenone | BrC(C(=O)C1=CC=CC=C1)C | C9H9BrO
reactant | thiourea | NC(=S)N | CH4N2S
product | 2-amino-5-methyl-4-phenylthiazole | NC=1SC(=C(N1)C1=CC=CC=C1)C | C10H10N2S
